US05367077
To a suspension of 2,4-dichloro-3 -nitro-6-(2-fluorophenyl)pyridine (1.6 g, 5.6 mmol) in methanol (100 ml) was added a catalytic amount of 10% palladium on carbon (100 mg). The mixture was hydrogenated at 50 psi for 8 hours then filtered through celite. The methanol was removed under reduced pressure and the residue was extracted with ethyl acetate from an aqueous solution saturated with potasssium carbonate. The extract was washed with brine, dried over sodium sulfate, filtered and concentrated to give 5-amino-2-(2-fluorophenyl)pyridine, which was used without further purification.

reactant | 2,4-dichloro-3 -nitro-6-(2-fluorophenyl)pyridine | 5.6 mmol, 1.6 g | ClC1=NC(=CC(=C1[N+](=O)[O-])Cl)C1=C(C=CC=C1)F | C11H5Cl2FN2O2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 5-amino-2-(2-fluorophenyl)pyridine | NC=1C=CC(=NC1)C1=C(C=CC=C1)F | C11H9FN2
